US08957073B2
To a solution of 2-azetidin-3-yl-3-(3-methoxy-phenyl)-pyrazine hydrochloride (138 mg, 0.50 mmol) and 2-chloro-quinoline (84 mg, 0.50 mmol) in DMF (6 mL) was added Cs2CO3 (325 mg, 1.0 mmol). The reaction mixture was stirred at 110° C. overnight. The reaction mixture was diluted with water, extracted with EtOAc (30 mL×2). The combined organic extracts were washed with water (30 mL) and brine (30 mL), dried over Na2SO4 and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (20% to 40% EtOAc in petroleum ether) to give 2-{3-[3-(3-methoxy-phenyl)-pyrazin-2-yl]-azetidin-1-yl}-8-methyl-quinoline (118 mg, 0.31 mmol, 63.35%).

reactant | 2-azetidin-3-yl-3-(3-methoxy-phenyl)-pyrazine hydrochloride | 0.50 mmol, 138 mg | Cl.N1CC(C1)C1=NC=CN=C1C1=CC(=CC=C1)OC
reactant | 2-chloro-quinoline | 0.50 mmol, 84 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | Cs2CO3 | 1.0 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-{3-[3-(3-methoxy-phenyl)-pyrazin-2-yl]-azetidin-1-yl}-8-methyl-quinoline | 0.31 mmol, 118 mg, 63.35% | COC=1C=C(C=CC1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=C(C=CC=C2C=C1)C | C24H22N4O
